US07807687B2
Step 1: Synthesis of 5,6-dihydro-2-phenacyl-2,4-diphenyl-2H,7H-1-benzopyran-8-one 2a
A suspension of 13.51 g of 2,4,6-triphenylpyryliumtetrafluoroborate (34.1 mmol) and 4.78 g of cyclohexane-1,2-dione (42.6 mmol) is heated to boiling point in methanol, then a solution of 4.56 g of acetic acid (75.9 mmol) and 7.68 g of triethylamine (75.9 mmol) in a little methanol is added dropwise. After heating at reflux for 7 h, the solution is allowed to cool to room temperature. A light yellow precipitate is extracted by suction, washed in portions with 100 ml of ice-cold methanol and dried to constant weight. 11.37 g of a light yellow powder (79.3%) with a melting point of 178-179° C. (lit.: 182-184° C.) is obtained.

reactant | 2,4,6-triphenylpyryliumtetrafluoroborate | 34.1 mmol, 13.51 g | F[B-](F)(F)F.C1(=CC=CC=C1)C1=[O+]C(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1
reactant | cyclohexane-1,2-dione | 42.6 mmol, 4.78 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | acetic acid | 75.9 mmol, 4.56 g | C(C)(=O)O | C2H4O2
reactant | triethylamine | 75.9 mmol, 7.68 g | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 5,6-dihydro-2-phenacyl-2,4-diphenyl-2H,7H-1-benzopyran-8-one | 11.37 g, 79.3% | C(C(=O)C1=CC=CC=C1)C1(OC2=C(C(=C1)C1=CC=CC=C1)CCCC2=O)C2=CC=CC=C2 | C29H24O3
